US04975460
1.05 g of 2-acetylamino-5-hydroxyindan are dissolved in 15 ml of acetone, and 1.14 g of powdered potassium carbonate and 1.01 g of methyl bromoacetate are added to the solution. The mixture is stirred overnight at room temperature and the reaction mixture is evaporated to remove solvent. The residue is extracted with ethyl acetate and the extract is washed successively with water and an aqueous sodium chloride solution, dried and evaporated to remove solvent. The residue is recrystallized from ethyl acetate-isopropyl ether-n-hexane to give 1.243 g of methyl (2-acetylaminoindan-5-yl)oxyacetate as colorless prisms. Yield: 86%

reactant | 2-acetylamino-5-hydroxyindan | 1.05 g | C(C)(=O)NC1CC2=CC=C(C=C2C1)O | C11H13NO2
reactant | potassium carbonate | 1.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 1.01 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | methyl (2-acetylaminoindan-5-yl)oxyacetate | 1.243 g, Yield: 86% | C(C)(=O)NC1CC2=CC=C(C=C2C1)OCC(=O)OC | C14H17NO4
